US06750348B1
To a stirred solution of 8-amino-1,2,3,4-tetrahydroquinoline (0.530 g, 3.58 mmol) in THF (30 mL) and water (3 mL), at room temperature, was added di-tert-butyl dicarbonate (0.782 g, 3.58 mmol). After 5 hours, the mixture was poured into water (10 mL) and diluted with ethyl acetate (50 mL). The phases were separated and the aqueous phase was extracted with ethyl acetate (3×10 mL). The combined organic extracts were dried (MgSO4) and concentrated. Purification of the crude material by radial chromatography (4 mm plate, 5:1 hexanes-ethyl acetate) provided 0.650 g (73%) of 8-(-tert-butoxycarbonylamino)-1,2,3,4-tetrahydroquinoline as a white solid. 1H NMR (CDCl3) δ 1.51 (s, 9H), 1.86-1.94 (m, 2H), 2.78 (t, 2H, J=6.3 Hz), 3.32 (t, 2H, J=5.4 Hz), 3.88 (br s, 1H, NH), 6.01 (br s, 1H, NH), 6.64 (dd, 1H, J=7.8, 7.2 Hz), 6.82 (d, 1H, J=7.2 Hz), 7.13 (d, 1H, J=7.8 Hz); 13C NMR (CDCl3) δ 21.97, 27.20, 28.34 (3 carbons), 42.20, 80.36, 117.25, 122.37, 123.65, 126.55 (2 carbons), 138.38, 154.08. ES-MS m/z 271 (M+Na).

reactant | 8-amino-1,2,3,4-tetrahydroquinoline | 3.58 mmol, 0.530 g | NC=1C=CC=C2CCCNC12 | C9H12N2
reactant | di-tert-butyl dicarbonate | 3.58 mmol, 0.782 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | water | 3 mL | O | H2O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 10 mL | O | H2O
product | 8-(-tert-butoxycarbonylamino)-1,2,3,4-tetrahydroquinoline | 0.650 g, 73% | C(C)(C)(C)OC(=O)NC=1C=CC=C2CCCNC12 | C14H20N2O2
